US07727988B2
2,4-Dimethoxy-5-(6-methyl-pyridin-2-yl)-pyrimidine (Prep49)
2,4-Di-methoxy-pyrimidine-5-boronic acid (500 mg, 2.72 mmol) was dissolved in degassed n-PrOH (40 mL) and then 2-bromo-6-methylpyridine (660 mg, 3.8 mmol), Na2CO3 (865 mg, 8.16 mmol), PPh3 (215 mg, 0.8 mmol) and Pd(OAc)2 (50 mg, 0.22 mmol) were added. The suspension was stirred at reflux for 4 hours. The solvent was evaporated and the crude was partitioned between water and Et2O. The organic phase was dried (Na2SO4) and evaporated. The crude was purified by flash chromatography with ethyl acetate-petroleum ether (2-8) to give 300 mg of the title compound (47% yield).

reactant | 2,4-Di-methoxy-pyrimidine-5-boronic acid | 2.72 mmol, 500 mg | COC1=NC=C(C(=N1)OC)B(O)O | C6H9BN2O4
reactant | 2-bromo-6-methylpyridine | 3.8 mmol, 660 mg | BrC1=NC(=CC=C1)C | C6H6BrN
reactant | Na2CO3 | 8.16 mmol, 865 mg | C(=O)([O-])[O-].[Na+].[Na+]
reactant | PPh3 | 0.8 mmol, 215 mg | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3 | C18H15P
solvent | n-PrOH | 40 mL | C(CC)O | C3H8O
catalyst | Pd(OAc)2 | 0.22 mmol, 50 mg | CC(=O)[O-].CC(=O)[O-].[Pd+2]
product | 2,4-Dimethoxy-5-(6-methyl-pyridin-2-yl)-pyrimidine | 300 mg, 47% yield | COC1=NC=C(C(=N1)OC)C1=NC(=CC=C1)C | C12H13N3O2
